US05821197
Preparation of 5-t-butyl-3-(2,4-dichloro-5-hydroxyphenyl) -1,3,4-thiadiazol-2(3H)-one (compound Nr. 51)
11.7 g of 5-t-butyl-3-(2,4-dichloro-5-isopropoxyphenyl)-1,3,4-thiadiazol-2(3H)-one (compound Nr. 48; 32.4 mmoles) and 250 ml of methylene chloride are charged into a 500 ml flask in a nitrogen atmosphere. AlCl3 (12.9 g; 96.7 mmoles) is added to this solution in portions and the mixture is maintained under stirring at room temperature for 2 hours. The mixture is then carefully poured into 100 g of ice to which 100 ml of a saturated solution of sodium chloride have been added. 200 ml of ethyl ether are added and, after separation of the phases, the organic phase is washed with a saturated solution of sodium chloride, anhydrified with sodium sulfate and concentrated with a rotavapor. 10 g of the desired product are obtained having m.p. 130°-132° C.

reactant | 5-t-butyl-3-(2,4-dichloro-5-isopropoxyphenyl)-1,3,4-thiadiazol-2(3H)-one | 11.7 g | C(C)(C)(C)C1=NN(C(S1)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)Cl | C15H18Cl2N2O2S
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
reactant | AlCl3 | 96.7 mmoles, 12.9 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 5-t-butyl-3-(2,4-dichloro-5-hydroxyphenyl) -1,3,4-thiadiazol-2(3H)-one | 10 g | C(C)(C)(C)C1=NN(C(S1)=O)C1=C(C=C(C(=C1)O)Cl)Cl | C12H12Cl2N2O2S
